US04267184
(a) 4,5-Bis(4-methoxyphenyl)pyrrole-2-carboxaldehyde
To 25 ml DMF at 0° was added dropwise with stirring 30 g of phosphorus oxychloride. The mixture was stirred for 15 minutes at room temperature, then a solution of 5.6 g (0.02 mole) of 2,3-bis(4-methoxyphenyl)pyrrole in 40 ml DMF was added dropwise with cooling in an ice bath. The mixture was then heated at 70°-80° for one hour, then cooled. Aqueous sodium hydroxide (50%) was added until the mixture was basic. The reaction mixture was then heated again at 70° for 15 minutes. The cooled reaction mixture was poured into ice water. The precipitated material was collected and purified by chromatography on 600 g Silic AR CC-7 (eluting with toluene containing 1-2% ethyl acetate) to give 3.4 g (55%) of product, m.p. 165°-6° (methylcyclohexane/toluene).

reactant | phosphorus oxychloride | 30 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,3-bis(4-methoxyphenyl)pyrrole | 0.02 mole, 5.6 g | COC1=CC=C(C=C1)C=1NC=CC1C1=CC=C(C=C1)OC | C18H17NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4,5-Bis(4-methoxyphenyl)pyrrole-2-carboxaldehyde | 3.4 g, 55% | COC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)OC)C=O | C19H17NO3
